US08217032B2
7,8-Difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol hydrochloride
Charge a flask with [6-hydroxy-2-(2,3,4-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (620 mg, 1.23 mmol) and add 250 mL dioxane. Start stirring and add to this 20 mL of a 1.0 M solution of lithium triethylborohydride in UV at room temperature. Stopper flask and stir for one hour. Heat the flask to 90° C. under nitrogen and follow reaction by LC/MS. Heat the reaction for a total of 18 hours. Pour the reaction into 300 mL of a mixture of 3/1 chloroform/isopropanol and 300 mL of saturated sodium bicarbonate solution. Separate the organic layer and dry over 3 Å molecular sieves. Evaporate to dryness and purify on a silica gel column eluting with 3% methanol/methylene chloride. Evaporate and convert to the hydrochloride salt using acetonitrile/water with 1N HCl and lyophilize. The yield is 295 mg (46%). 1H-NMR (CD3OD, 400 MHz) δ7.90-7.87 (m, 1H); 7.79 (d, J=8.8 Hz, 1H); 7.65 (d, J=8.8 Hz, 1H); 7.59-7.55 (m, 1H); 7.19 (d, J=2.4 Hz, 1H); 7.11-7.05 (m, 3H); 6.88-6.83 (m, 1H); 6.81-6.75 (m, 2H); 4.10-4.07 (m, 2H); 2.93-2.91 (m, 2H); 2.71-2.71 (m, 4H); 1.67-1.63 (m, 4H); 1.51-1.50 (m, 2H). The racemic compound is purified using chiral chromatography using chiral chromatography (conditions O). The two isomers eluted with retention times of 5.2 and 7.4 minutes.

reactant | [6-hydroxy-2-(2,3,4-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 1.23 mmol, 620 mg | OC=1C=C2C=CC(=C(C2=CC1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C1=C(C(=C(C=C1)F)F)F | C30H26F3NO3
reactant | dioxane | 250 mL | O1CCOCC1 | C4H8O2
reactant | lithium triethylborohydride | C(C)[BH-](CC)CC.[Li+]
reactant | sodium bicarbonate | 300 mL | C([O-])(O)=O.[Na+]
reactant | chloroform isopropanol | C(Cl)(Cl)Cl.C(C)(C)O
product | 7,8-Difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol hydrochloride | Cl.FC1=C2OC(C3=C4C=CC(=CC4=CC=C3C2=CC=C1F)O)C1=CC=C(C=C1)OCCN1CCCCC1 | InChI=1S/C30H27F2NO3.ClH/c31-26-13-12-25-24-10-6-20-18-21(34)7-11-23(20)27(24)29(36-30(25)28(26)32)19-4-8-22(9-5-19)35-17-16-33-14-2-1-3-15-33;/h4-13,18,29,34H,1-3,14-17H2;1H
